US04920129
To a mixture of iron powder (145 mg) and ammonium chloride (15 mg) in ethanol (12 ml) and water (2.2 ml) was added 8-(2-methyl-6-methoxycarbonylaminobenzylamino)-6-nitro-3-(2-propynyl)-2-methylimidazo[1,2-a]pyridine (360 mg) and the mixture was refluxed for 40 minutes. The inorgnic materials were removed by filtration and the solvent was evaporated under reduced pressure. An aqueous solution of sodium bicarbonate (5 ml) was added to the residue and the resultant solid was collected by filtration. The solid was dissolved in methylene chloride (10 ml) and acetic anhydride (94 mg) was added thereto. After stirring for 1 hour at room temperature, the organic layer was washed with an aqueous solution of sodium bicarbonate and then with water. The solvent was evaporated under reduced pressure. The residue was subjected to column chromatography on silica gel (10 g), eluting with a mixture of chloroform and methanol (100:3). The fractions containing the desired product were combined, and the solvent was removed under reduced pressure. The residue was triturated with a mixture of ethanol and diethyl ether (1:1) to give 8-(2-methyl-6-methoxycarbonylaminobenzylamino)-6-acetamido-3-(2-propynyl)-2-methylimidazo[1,2-a]pyridine (70 mg).

reactant | ammonium chloride | 15 mg | [Cl-].[NH4+]
reactant | 8-(2-methyl-6-methoxycarbonylaminobenzylamino)-6-nitro-3-(2-propynyl)-2-methylimidazo[1,2-a]pyridine | 360 mg | CC1=C(CNC=2C=3N(C=C(C2)[N+](=O)[O-])C(=C(N3)C)CC#C)C(=CC=C1)NC(=O)OC | C21H21N5O4
reactant | ethanol | 12 ml | C(C)O | C2H6O
solvent | water | 2.2 ml | O | H2O
catalyst | iron | 145 mg | [Fe] | Fe
product | 8-(2-methyl-6-methoxycarbonylaminobenzylamino)-6-acetamido-3-(2-propynyl)-2-methylimidazo[1,2-a]pyridine | 70 mg | CC1=C(CNC=2C=3N(C=C(C2)NC(C)=O)C(=C(N3)C)CC#C)C(=CC=C1)NC(=O)OC | C23H25N5O3
